US06576400B1
41.6 g of phosphorus pentachloride was dispersed in 150 ml of ether and then, while stirring and cooling in an ice-water bath, there was added dropwise, from a dropping funnel, a solution of 17 g of cyanoacetic acid dissolved in 50 ml of ether. Directly after the completion of the dropwise addition, the ether and phosphorus oxychloride were driven off with an evaporator and 150 ml of tetrahydrofuran added to the residue. While stirring at 50° C., 15.6 g of t-butanol was added dropwise. Following the dropwise addition, the reaction was continued for 8 hours, after which the t-butyl cyanoacetate was obtained by distillation. A suspension of 19.8 g of the t-butyl cyanoacetate obtained, 110 ml of benzene, 4.2 g of paraformaldehyde, 1 g of piperidine hydrochloride and 1 g of glacial acetic acid was heated and water eliminated while refluxing. After water no longer was given off, the benzene was distilled off. The residue was cooled, after which it was dissolved in acetone and reprecipitated in water. The resinous material was collected by decanting, then redissolved in acetone and subjected to thermal decomposition and distillation under reduced pressure. t-Butyl α-cyanoacrylate was obtained. 5 g of the t-butyl α-cyanoacrylate obtained and 100 mg of azobisisobutyronitrile were dissolved in 50 ml of tetrahydrofuran, and polymerization carried out at 60° C. Poly-t-butyl α-cyanoacrylate was obtained. The molecular weight of the polymer obtained determined by gel permeation chromatography (GPC) was, by polystyrene conversion, a number average molecular weight of 32,000 and a weight average molecular weight of 98,000. The polymer obtained was irradiated with an electron beam, and the value of the main chain scission efficiency Gs calculated from the number average molecular weight determined by GPC was 3.8.

reactant | t-butyl cyanoacetate | 19.8 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | benzene | 110 ml | C1=CC=CC=C1 | C6H6
reactant | paraformaldehyde | 4.2 g | C=O | CH2O
reactant | piperidine hydrochloride | 1 g | Cl.N1CCCCC1
solvent | water | O | H2O
solvent | acetic acid | 1 g | C(C)(=O)O | C2H4O2
product | t-Butyl α-cyanoacrylate | C(#N)C(C(=O)OC(C)(C)C)=C | C8H11NO2
